US07432284B2
To a solution of 2-butyl-5-chloro-7-fluoro-6-methoxy-2-(2-oxo-propyl)-3,4-dihydro-2H-naphthalen-1-one (28 mg, 0.08 mmol) in EtOH (0.4 mL) was added potassium hydroxide (2M solution in EtOH, 0.05 mL, 0.1 mmol). The reaction mixture was heated at 90° C. in a sealed flask for two hours. The reaction was cooled to room temperature, diluted with dichloromethane (5 mL) and filtered through a pad of MgSO4 atop a pad of SiO2. The filter pad was washed with 5% MeOH in CH2Cl2 and the combined filtrates concentrated under vacuum to give 3a-butyl-6-chloro-8-fluoro-7-methoxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one as an oil which solidified on standing.

reactant | 2-butyl-5-chloro-7-fluoro-6-methoxy-2-(2-oxo-propyl)-3,4-dihydro-2H-naphthalen-1-one | 0.08 mmol, 28 mg | C(CCC)C1(C(C2=CC(=C(C(=C2CC1)Cl)OC)F)=O)CC(C)=O | C18H22ClFO3
reactant | potassium hydroxide | 0.1 mmol, 2M, 0.05 mL | [OH-].[K+]
solvent | EtOH | 0.4 mL | CCO | C2H6O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3a-butyl-6-chloro-8-fluoro-7-methoxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one | C(CCC)C12C(C3=CC(=C(C(=C3CC1)Cl)OC)F)=CC(C2)=O | C18H20ClFO2
